US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 150 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (165 μM) and 0.0265 cm3 of isobutylamine. 46 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-isobutylbenzamide are thus obtained in the form of a white powder [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 0.89 (d, J=7 Hz, 6H), 1.85 (mt, 1H), 2.98 (s, 3H), 3.09 (t, J=6.5 Hz, 2H), 3.82 (mt, 2H), 4.23 (mt, 2H), 4.79 (s, 1H), 7.36 (d, J=8.5 Hz, 4H), 7.46 (d, J=8.5 Hz, 4H), from 7.50 to 7.60 (mt, 2H), 7.84 (broad s, 1H), 7.88 (broad d, J=8 Hz, 1H), 8.51 (t, J=6 Hz, 1H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 150 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | isobutylamine | 0.0265 cm3 | C(C(C)C)N | C4H11N
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-isobutylbenzamide | 46 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)NCC(C)C)C=CC1)C1=CC=C(C=C1)Cl | C29H30Cl2N2O3S
